US05663194
A mixture of N-[4-acetyl-3-hydroxyphenyl)acetamide (24.1 g, 0.125 mol) and diethyl oxalate (47.5 g, 0.33 mol) in absolute ethanol (200 mL) was added to a solution of sodium ethoxide (14 g sodium in 300 mL absolute ethanol). The reaction was heated to reflux for 2 hours and allowed to cool to room temperature then poured into water (500 mL) and methylene chloride (1500 mL). The aqueous layer was made slightly acidic using 6N hydrochloric acid. The organic layer separated and the aqueous layer washed again using methylene chloride (500 mL). The combined organic layers were dried over anhydrous magnesium sulfate, filtered, and the solvent removed under vacuum. The solid material (35.8 g) was dissolved in ethanol (350 mL) and concentrated hydrochloric acid (6 mL) was added. The solution was heated to reflux for 1 day, removed from heat and allowed to stand for 2 days. The orange solid was filtered to afford 17 g of ethyl 7-amino-4-oxo-4H-1-benzopyran-2-carboxylate. The mother liquor was concentrated to afford another 4.94 g of desired product. Yield 75.6%, 1H NMR (DMSO-d6) δ 1.32 (3H, t, J=7.25 Hz, CH2CH3,), 4.34 (2H, q, J=7.03 Hz, CH2CH3), 6.50 (2H, bs, NH2), 6.53 (1H, d, J=1.98 Hz, =CH), 6.69 (1H, dd, J=8.78, 1.98 Hz, ArH), 6.71 (1H, s, ArH), 7.68 (1H, d, J=8.78 Hz, ArH); MS (EI) m/z, 233 (M+).

reactant | N-[4-acetyl-3-hydroxyphenyl)acetamide | 0.125 mol, 24.1 g | C(C)(=O)C1=C(C=C(C=C1)NC(C)=O)O | C10H11NO3
reactant | diethyl oxalate | 0.33 mol, 47.5 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | 300 mL, 14 g | [O-]CC.[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | methylene chloride | 1500 mL | C(Cl)Cl | CH2Cl2
solvent | water | 500 mL | O | H2O
product | ethyl 7-amino-4-oxo-4H-1-benzopyran-2-carboxylate | 17 g, Yield 75.6% | NC1=CC2=C(C(C=C(O2)C(=O)OCC)=O)C=C1 | C12H11NO4
